US08729102B2
F) tert-butyl {(1S)-2-[4-(6-ethoxy-2H-indazol-2-yl)-3-fluorophenoxy]-1-methylethyl}carbamate
A mixture of 4-ethoxy-2-nitrobenzaldehyde (5.20 g), tert-butyl [(1S)-2-(4-amino-3-fluorophenoxy)-1-methylethyl]carbamate (7.58 g), magnesium sulfate (3.21 g) and ethanol (60 mL) was stirred under reflux overnight. The reaction mixture was concentrated under reduced pressure, triethyl phosphite (13.7 ml) was added to the residue, and the mixture was stirred at 130° C. for 3 hr. The reaction mixture was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a yellow solid (6.53 g).

reactant | 4-ethoxy-2-nitrobenzaldehyde | 5.20 g | C(C)OC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C9H9NO4
reactant | tert-butyl [(1S)-2-(4-amino-3-fluorophenoxy)-1-methylethyl]carbamate | 7.58 g | NC1=C(C=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)F | C14H21FN2O3
reactant | magnesium sulfate | 3.21 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | tert-butyl {(1S)-2-[4-(6-ethoxy-2H-indazol-2-yl)-3-fluorophenoxy]-1-methylethyl}carbamate | 6.53 g | C(C)OC=1C=CC2=CN(N=C2C1)C1=C(C=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)F | C23H28FN3O4
